US07585881B2
(+)-8-{(1S)-1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl)ethyl}-3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine
NaH (716 mg, 29.8 mmol) was added slowly to a solution of 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine (5.0 g, 24.8 mmol) in DMF (250 ml) under nitrogen. After 10 min a solution of 3-(1-chloroethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole (6.0 g, 24.8 mmol) in DMF (200 ml) was added, followed by stirring o.n. at r.t. A sat NH4Cl solution was added followed by water. The mixture was extracted with EA and DCM. The combined organic extracts were washed with water and brine, dried and concentrated. Recrystallization from EA gave 2.24 g (22%) of the racemic product 8-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl}-3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine. Separation on a Chiralpak AD column (100% 2-propanol) gave the title compound which eluted as second enantiomer. 1H NMR: 1.74 (d, 3 H) 2.17 (m, 2 H) 3.45 (m, 2 H) 4.10 (m, 2 H) 5.96 (m, 1 H) 7.44 (t, 1 H) 7.53 (m, 1 H) 7.59 (m, 2 H) 7.97 (m, 1 H) 8.08 (m, 1 H) 8.67 (d, 2 H)

reactant | NaH | 29.8 mmol, 716 mg | [H-].[Na+]
reactant | 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine | 24.8 mmol, 5.0 g | N1=CC=C(C=C1)C1=NN=C2N1CCCN2 | C10H11N5
reactant | 3-(1-chloroethyl)-5-(3-chlorophenyl)-1,2,4-oxadiazole | 24.8 mmol, 6.0 g | ClC(C)C1=NOC(=N1)C1=CC(=CC=C1)Cl | C10H8Cl2N2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (+)-8-{(1S)-1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl)ethyl}-3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine | 2.24 g, 22% | ClC=1C=C(C=CC1)C1=NC(=NO1)[C@H](C)N1C=2N(CCC1)C(=NN2)C2=CC=NC=C2 | C20H18ClN7O
